US07300936B2
(2R)-2-[N-(4-Allyloxy-3-fluorobenzyl)-N-(4-chlorobenzenesulfonyl)amino]-4-methyl-pentanoic acid amide:
To a solution of (2R)-2-(4-chlorobenzenesulfonylamino)-4-methyl-pentanoic acid amide (1.00 g, 3.29 mmol), and Cs2CO3 (1.29 g, 3.95 mmol) in DMF (25 mL) was added 1-allyloxy-4-bromomethyl-2-fluorobenzene (ref.: Graham, Samuel L; et al., Eur. Pat. Appl. (1992): EP 487270; 0.88 g, 3.67 mmol). The resulting solution was stirred at rt for 18 h. The reaction was then diluted with 9:1 EtOAc:hexanes (350 mL) and washed with H2O (4×200 mL), brine, and dried over Na2SO4, to afford the titled compound (393 mg) as a white solid in 26% yield. MS (ESI), (M+H)+469.1; 1H NMR (CDCl3) δ7.66 (d, 2H, J=8.1), 7.45 (d, 2H, J=8.1), 7.11 (d, 1H, J=12.0), 6.98 (m, 1H), 6.84 (t, 1H, J=8.0), 6.22 (br s, 1H), 6.04 (m, 2H), 5.42 (m, 1H), 5.16 (br s, 1H), 4.59 (m, 2H), 4.40 (m, 3H), 1.83 (m, 1H), 1.32 (m, 1H), 1.14 (m, 1H), 0.76 (d, 3H, J=7.0), 0.68 (d, 3H, J=7.0).

reactant | (2R)-2-(4-chlorobenzenesulfonylamino)-4-methyl-pentanoic acid amide | 3.29 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)CC(C)C | C12H17ClN2O3S
reactant | Cs2CO3 | 3.95 mmol, 1.29 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-allyloxy-4-bromomethyl-2-fluorobenzene | 3.67 mmol, 0.88 g | C(C=C)OC1=C(C=C(C=C1)CBr)F | C10H10BrFO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R)-2-[N-(4-Allyloxy-3-fluorobenzyl)-N-(4-chlorobenzenesulfonyl)amino]-4-methyl-pentanoic acid amide | 393 mg, 26% yield | C(C=C)OC1=C(C=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)[C@@H](C(=O)N)CC(C)C)C=C1)F | C22H26ClFN2O4S
